US08748624B2
STEP A: 2-bromo-4,6-bis(trifluoromethyl)benzaldehyde
A 2.59 M hexanes solution of n-BuLi (1.13 mL, 2.92 mmol) was added dropwise to a, 0° C., THF solution (4 mL) of 2,2,6,6-tetramethylpiperidine (0.50 mL, 2.92 mmol). After 5 min at 0° C., the solution was cooled to −78° C. and 1-bromo-3,5-bis(trifluoromethyl)benzene was added dropwise over 2 min. The resulting brown amber colored solution was stirred at −78° C. for an additional 20 min. Ethyl formate (0.587 mL, 7.30 mmol) was then added dropwise at −78° C. over 1 min. After 30 min at −78° C., 1 M aqueous HCl was added, the layers were separated and the organic layer was washed with 0.1 M aqueous HCl and 1 M aqueous. The organic layer was dried (Na2SO4), concentrated, and short path vacuum distilled to provide the title compound.

reactant | n-BuLi | 2.92 mmol, 1.13 mL | [Li]CCCC
reactant | 2,2,6,6-tetramethylpiperidine | 2.92 mmol, 0.50 mL | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | 1-bromo-3,5-bis(trifluoromethyl)benzene | BrC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C8H3BrF6
reactant | Ethyl formate | 7.30 mmol, 0.587 mL | C(=O)OCC | C3H6O2
reactant | HCl | 1 M | Cl | ClH
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 2-bromo-4,6-bis(trifluoromethyl)benzaldehyde | BrC1=C(C=O)C(=CC(=C1)C(F)(F)F)C(F)(F)F | C9H3BrF6O
